US09302991B2
<Step-2>:methyl 5-ethyl-6-(2,2,2-trifluoroethoxy)nicotinate
The title compound is prepared in 73% yield (610 mg, a white solid) from methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate (1.0 g, 3.2 mmol, Step-1) and diethylzinc (6.4 mL, 6.4 mmol, 1M solution in n-hexane) instead of dimethylzinc by the similar manner in Step-3 of Amine-27.

reactant | methyl 5-bromo-6-(2,2,2-trifluoroethoxy)nicotinate | 3.2 mmol, 1.0 g | BrC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7BrF3NO3
reactant | diethylzinc | 6.4 mmol, 1M, 6.4 mL | C(C)[Zn]CC
product | methyl 5-ethyl-6-(2,2,2-trifluoroethoxy)nicotinate | 73% yield | C(C)C=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C11H12F3NO3
